US05593660
a) N-Methoxyacetyl-5-methylamino-2,4,6-triiodoisophthalic acid-N,N-bis-(ethoxycarbonylmethyl)-amide-chloride
A solution of 68.2 g (100 mmol) of N-methoxyacetyl-5-methylamino-2,4,6-triiodoisophthalic acid dichloride (EP 0015867) in 500 ml of N,N-dimethylformamide is mixed with 22.6 g (100 mmol) of iminodiacetic acid diethyl ester hydrochloride (production according to Jongkees, Recl. Trav. Chimys-Bas, 27, 296 (1908)) and 10.1 g (100 mmol) of triethylamine. A suspension results, which is stirred overnight under argon at room temperature. Then, it is concentrated by evaporation and the residue is chromatographed on silica gel 60 (Merck) with dichloromethane/ethyl acetate. After concentration by evaporation of the product fractions, a colorless solid is obtained, which is dried in a vacuum.

reactant | N-methoxyacetyl-5-methylamino-2,4,6-triiodoisophthalic acid dichloride | 100 mmol, 68.2 g | COCC(=O)N(C=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I)C | C12H8Cl2I3NO4
reactant | iminodiacetic acid diethyl ester hydrochloride | 100 mmol, 22.6 g | Cl.C(C)OC(CNCC(=O)OCC)=O
reactant | triethylamine | 100 mmol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | N-Methoxyacetyl-5-methylamino-2,4,6-triiodoisophthalic acid-N,N-bis-(ethoxycarbonylmethyl)-amide-chloride | [Cl-].C(C)OC(=O)CN(C(C1=C(C(C(=O)O)=C(C(=C1I)N(C(COC)=O)C)I)I)=O)CC(=O)OCC | InChI=1S/C20H23I3N2O9.ClH/c1-5-33-11(27)7-25(8-12(28)34-6-2)19(29)13-15(21)14(20(30)31)17(23)18(16(13)22)24(3)10(26)9-32-4;/h5-9H2,1-4H3,(H,30,31);1H/p-1
